US06514965B1
7-Bromo-3(R,S)-tert-butoxycarbonyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one
A suspension of 3-tert-butoxycarbonyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one (1.00 g, 3.43 mmol) and NBS (0.672 g, 3.78 mmol) in acetic acid (0.8 mL) and chloroform (8 mL) was heated at reflux for 3 hrs. Then, the reaction mixture was diluted with DCM (30 mL), washed with water, dried over Na2SO4, filtered and evaporated. The crude residue was purified by flash chromatography on silica column using gradient elution with EtOAc/DCM (from 5% ethyl acetate in DCM to 10% ethyl acetate in DCM). The title compound was obtained as a white powder (0.689 g, 54%).

reactant | 3-tert-butoxycarbonyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | 3.43 mmol, 1.00 g | C(C)(C)(C)OC(=O)C1C(NC2=C(CC1)C=CC(=C2)OC)=O | C16H21NO4
reactant | NBS | 3.78 mmol, 0.672 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetic acid | 0.8 mL | C(C)(=O)O | C2H4O2
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 7-Bromo-3(R,S)-tert-butoxycarbonyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | BrC=1C(=CC2=C(CCC(C(N2)=O)C(=O)OC(C)(C)C)C1)OC | C16H20BrNO4
